US04902700
Synthesis of 2-[trans-3-(4-hydroxybutanoylamino) styryl]benzothiazole (compound No. 422)
A solution of 1.0 g of 2-(trans-3-aminostyryl)benzothiazole dissolved in 15 ml of anhydrous tetrahydrofuran was cooled to -78° C. and 2.8 ml of a n-hexane solution (1.55M) of n-butyl lithium was added dropwise in a nitrogen gas atmosphere. After a mixture was stirred at the same temperature for 25 minutes, 375 mg of γ-butyrolactone was injected, followed by stirring for 1 hour. After completion of the reaction, the mixture was extracted with ethyl acetate, dried over magnesium sulfate and the solvent was evaporated under reduced pressure. The crude crystals obtained were washed with ethyl ether and dried to obtain 160 mg (yield 12%) of the title compound.

reactant | 2-(trans-3-aminostyryl)benzothiazole | 1.0 g | NC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C15H12N2S
reactant | n-hexane | 1.55M, 2.8 ml | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | γ-butyrolactone | 375 mg | C1(CCCO1)=O | C4H6O2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-[trans-3-(4-hydroxybutanoylamino) styryl]benzothiazole | 160 mg, yield 12% | OCCCC(=O)NC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C19H18N2O2S
